US04888332
Preparation of 2-amino-7-chloro-5-methyl -s-triazolo[1,5-a]pyrimidine
2-Amino-7-hydroxy-5-methyl-s-triazolo[1,5-a]pyrimidine (20 g) was suspended in 120 ml of phosphorus oxychloride under ice cooling, and the suspension was refluxed for two hours. Excess phosphorus oxychloride was removed by distillation under normal pressure. The 40 ml of reddish brown oil left was shaken with 300 ml of dichloromethane and 200 ml of water and the organic layer was collected. The aqueous layer was again extracted with 200 ml of fresh dichloromethane, and the combined organic extract was treated with saturated sodium bicarbonate solution until the pH of washings rose to 7 to 8, then washed with 100 ml of saturated sodium chloride solution. After drying over anhydrous magnesium sulfate, the dried solution was concentrated under reduced pressure to about 30 ml, and the concentrate was crystallized using 80 ml of n-hexane, affording 17 g of the objective compound as faint yellow crystals.

reactant | 2-Amino-7-hydroxy-5-methyl-s-triazolo[1,5-a]pyrimidine | 20 g | NC1=NN2C(N=C(C=C2O)C)=N1 | C6H7N5O
reactant | phosphorus oxychloride | 120 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-amino-7-chloro-5-methyl -s-triazolo[1,5-a]pyrimidine | 17 g | NC1=NN2C(N=C(C=C2Cl)C)=N1 | C6H6ClN5
